US06140351
To a solution of N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.70 g, 1.5 mmol) in DMF (5 mL) was added 2-(dimethylamino)ethanethiol (2.1 g, 15 mmol), followed by potassium carbonate (1.0 g, 7.2 mmol) and the reaction stirred at ambient temperature. After 24 hours, the mixture was poured into water (100 mL) and the resulting solid collected by filtration, washed with water and dried in vacuo. Purification by flash chromatography on silica gel afforded 0.28 g (35% yield) of N-(4-chlorophenyl)-2-[((3-chloro-4-(((2-(dimethylamino)ethyl)thio)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide; as a cream-colored solid; NMR (DMSO-d6) 11.1 (s, 1), 10.8 (s, 1), 8.3 (d, 1), 7.9 (d, 1), 7.8 (s, 1), 7.7 (d, 2), 7.6 (dd, 1), 7.4 (d, 2), 3.7 (s, 2), 2.5 (t, 2), 2.4 (t, 2), 2.1 (s, 6) ppm.

reactant | N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 1.5 mmol, 0.70 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CCl)=O | C19H12Cl4N2O2S
reactant | 2-(dimethylamino)ethanethiol | 15 mmol, 2.1 g | CN(CCS)C | C4H11NS
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-2-[((3-chloro-4-(((2-(dimethylamino)ethyl)thio)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.28 g, 35% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CSCCN(C)C)=O | C23H22Cl3N3O2S2
